US06897224B2
10.4 g of 4-methyl-2-oxo-4-phenylpentanoic acid (WO98/54159) in 250 ml of dimethylformamide is mixed at −5° C. with 4.1 ml of thionyl chloride and after 15 minutes with 4 ml of methanol. After 15 hours at room temperature, the batch is diluted with water and extracted with ethyl acetate. The organic extracts are washed with water, dried (Na2SO4) and concentrated by evaporation, whereby 9.3 g of 4-methyl-2-oxo-4-phenylpentanoic acid-methyl ester is obtained. The latter is mixed in 558 ml of DMF at −5° C. with 15.5 ml (104.63 mmol) of (trifluoromethyl)trimethylsilane and 20.5 g (63.28 mmol) of cesium carbonate and stirred for 16 hours at room temperature. Water is added, extracted with ethyl acetate, the organic phase is washed with water and dried (Na2SO4). The intermediate product that is concentrated by evaporation is taken up in 200 ml of THF and 50 ml of a 1 M solution of tetrabutylammonium fluoride in THF is added. It is stirred for 2 hours, water is added, extracted with ethyl acetate, the organic phase is washed with water and dried (Na2SO4). After chromatography on silica gel with hexane-ethyl acetate (0-30%), 8.35 g of 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanoic acid-methyl ester is obtained. The ester (8.3 g, 28.59 mmol) is dissolved in 180 ml of THF, and 1.52 g (36.20 mmol) of lithium aluminum hydride is added in small portions over a period of 2.5 hours. After complete conversion, 5 ml of ethyl acetate is added in drops, and after another 10 minutes, 10 ml of water is carefully added. The formed precipitate is filtered out and washed carefully with ethyl acetate. After chromatography on silica gel with hexane-ethyl acetate (0-35%), 5.40 g of 4-methyl-4-phenyl-2-(trifluoromethyl)pentane-1,2-diol is obtained. 5.6 g (21.35 mmol) of triphenylphosphine and, while being cooled with ice, 4.3 ml (27.31 mmol) of azodicarboxylic acid-diethyl ester are added to diol (5.40 g, 20.59 mmol) in 43 ml of THF. The reaction mixture is refluxed for 3 hours and, after cooling, it is concentrated by evaporation. After chromatography on silica gel with hexane-ethyl acetate (0-15%), 4.18 g of product is obtained.

reactant | 4-methyl-2-oxo-4-phenylpentanoic acid | 10.4 g | CC(CC(C(=O)O)=O)(C)C1=CC=CC=C1 | C12H14O3
reactant | thionyl chloride | 4.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 4 ml | CO | CH4O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-methyl-2-oxo-4-phenylpentanoic acid-methyl ester | 9.3 g | COC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C13H16O3
